US07893085B2
7-Fluoro-3-(2-fluoro-4-iodo-phenylamino)-thieno[3,2-c]pyridine-2-carboxylic acid (2-vinyloxy-ethoxy)-amide
To a solution 7-fluoro-3-(2-fluoro-4-iodo-phenylamino)-thieno[3,2-c]pyridine-2-carboxylic acid ethyl ester (175 mg, 0.38 mmol) in IMS (4 mL) was added a 1.0 M aqueous solution of sodium hydroxide (0.5 mL, 0.5 mmol). The reaction mixture was heated to 65° C. for 1 hour before being cooled to room temperature and concentrated in vacuo. The resulting residue was azeotroped with toluene (3×10 mL), and then suspended in THF (5 mL). O-(2-Vinyloxy-ethyl)-hydroxylamine (78 mg, 0.76 mmol), N—N-diisopropylethylamine (0.26 mL, 1.52 mmol), EDCI (146 mg, 0.76 mmol), and HOBt (103 mg, 0.76 mmol) were then added sequentially, and the reaction mixture stirred for 18 hours at room temperature. The reaction mixture was concentrated in vacuo and the residue was partitioned between water and ethyl acetate. The organic layer was separated and washed with a saturated solution of sodium hydrogenocarbonate and brine, dried over sodium sulfate, filtered and concentrated to give a residue, which was purified by column chromatography (Si-SPE, gradient 0-2% methanol in DCM) to afford the title compound as a pale yellow solid (106 mg, 54%). LCMS (method B): RT=3.92 min. M+H+=518.

reactant | 7-fluoro-3-(2-fluoro-4-iodo-phenylamino)-thieno[3,2-c]pyridine-2-carboxylic acid ethyl ester | 0.38 mmol, 175 mg | C(C)OC(=O)C1=C(C=2C=NC=C(C2S1)F)NC1=C(C=C(C=C1)I)F | C16H11F2IN2O2S
reactant | sodium hydroxide | 0.5 mmol, 0.5 mL | [OH-].[Na+]
reactant | O-(2-Vinyloxy-ethyl)-hydroxylamine | 0.76 mmol, 78 mg | C(=C)OCCON | C4H9NO2
reactant | EDCI | 0.76 mmol, 146 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.76 mmol, 103 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
product | 7-Fluoro-3-(2-fluoro-4-iodo-phenylamino)-thieno[3,2-c]pyridine-2-carboxylic acid (2-vinyloxy-ethoxy)-amide | 106 mg, 54% | C(=C)OCCONC(=O)C1=C(C=2C=NC=C(C2S1)F)NC1=C(C=C(C=C1)I)F | C18H14F2IN3O3S
